US05025025
To a solution of 14.3 mL (0.1 mole) of diisopropylamine in 170 mL dry tetrahydrofuran is added dropwise 37 mL (93 mmol) of a 2.5 M solution of n-butyllithium in hexane. The solution is stirred for 15 minutes and then a solution of 13.86 g (46.1 mmol) of 4-(4-t-butyldimethylsiloxybutyl)-epsilon-caprolactone in 68 mL dry tetrahydrofuran is added slowly. The yellow solution is stirred at room temperature for 0.5 hour and 19 mL (0.3 mole) methyl iodide is added rapidly. The exothermic reaction is controlled by cooling in a water bath. The reaction is stirred for 3 hours and quenched using saturated aqueous ammonium chloride solution. The mixture is extracted with ether and the organic layer is washed with water and brine. The organic phase is dried, filtered, concentrated and purified by chromatography using 3:2 hexane, ether as eluent to yield 2-methyl-4-(4-t-butyldimethylsiloxybutyl)-epsilon-caprolactone; NMR (CDCl3): delta 4-4.4 (m,2H), 3.6 (t,2 H), 0.88 (s,9H), 1.2 (d,3H). This is converted to methyl 8-amino-2- methyl-4-[3-(3-pyridyl)-propyl]octanoate in a similar fashion as described below for the 2,2-dimethyl analog.

reactant | diisopropylamine | 0.1 mole, 14.3 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | 4-(4-t-butyldimethylsiloxybutyl)-epsilon-caprolactone | 46.1 mmol, 13.86 g | O([Si](C)(C)C(C)(C)C)CCCCC1CCC(=O)OCC1 | C16H32O3Si
reactant | methyl iodide | 0.3 mole, 19 mL | CI | CH3I
solvent | tetrahydrofuran | 170 mL | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 68 mL | O1CCCC1 | C4H8O
product | 2-methyl-4-(4-t-butyldimethylsiloxybutyl)-epsilon-caprolactone | CC1C(=O)OCCC(C1)CCCCO[Si](C)(C)C(C)(C)C | C17H34O3Si
